US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, octadec-9-enoyl chloride (0.374 g, 1.24 mmol) was reacted with 2-azidoethanamine (0.107 g, 1.24 mmol) and triethylamine (0.252 g, 2.49 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)octadec-9-enamide (0.309 g, 71%). 1H NMR (300 MHz, CDCl3) δ 6.30 (s, 1H), δ 5.29 (m, 2H), δ 3.39 (d, 2H), δ 3.38 (d, 2H), δ 2.19 (t, 2H), δ 1.97 (m, 4H), δ 1.59 (t, 2H), δ 1.26 (m, 20H), δ 0.84 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 173.9, 130.2, 129.9, 51.1, 39.1, 36.8, 32.1, 30.0, 29.9, 29.7, 29.5, 29.4, 29.3, 27.4, 27.3, 25.9, 22.9, 14.3 ppm; HRMS (ESI) calcd for C20H38N4O (M+) 350.3046. found 350.3039.

reactant | N-(2-azidoethyl)tetradecanamide | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | octadec-9-enoyl chloride | 1.24 mmol, 0.374 g | C(CCCCCCCC=CCCCCCCCC)(=O)Cl | C18H33ClO
reactant | 2-azidoethanamine | 1.24 mmol, 0.107 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.49 mmol, 0.252 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)octadec-9-enamide | 0.309 g, 71% | N(=[N+]=[N-])CCNC(CCCCCCCC=CCCCCCCCC)=O | C20H38N4O
